US07576222B2
2-(4-BUT-2-YNYLOXY-BENZENESULFONYLAMINO)-3-(5-BENZYLOXY-1H-INDOL-3-YL)-PROPIONIC Acid
The title compound was prepared by the method of Example 6, using 5-benzyloxy-DL-tryptophan and 4-but-2-ynyloxy-benzenesulfonyl chloride as starting materials. 1H NMR (DMSO-d6): 400 MHz δ 12.55 (bs, 1H), 10.64 (s, 1H), 8.05 (d, J=8.0 Hz, 1H), 7.50-7.33 (m, 7H), 7.19 (d, J=12.0 Hz, 1H), 7.03 (d, J=4.0 Hz, 1H), 6.97 (d, J=4.0 Hz, 1H), 6.87 (d, J=8.0 Hz, 2H), 6.76 (dd, J=8.0, 4.0 Hz, 1H), 5.04 (s, 2H), 4.74 (q, J=2.4 Hz, 2H), 3.86 (q, J=8.0 Hz, 1H), 3.00 (dd J=14.4, 6.4 Hz, 1H), 2.83 (dd J=14.4, 8.0 Hz, 1H), 1.82 (t, J=2.4 Hz, 3H); HRMS: calcd for C28H27N2O6S (ESI+, [M+H]1+), 519.1584; found 519.1588; LCMS m/z (ESI) [M+H] 519, retention time=2.99 min.

reactant | 5-benzyloxy-DL-tryptophan | C(C1=CC=CC=C1)OC1=CC=C2NC=C(CC(N)C(=O)O)C2=C1 | C18H18N2O3
reactant | 4-but-2-ynyloxy-benzenesulfonyl chloride | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
product | 2-(4-BUT-2-YNYLOXY-BENZENESULFONYLAMINO)-3-(5-BENZYLOXY-1H-INDOL-3-YL)-PROPIONIC Acid | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CC1=CNC2=CC=C(C=C12)OCC1=CC=CC=C1 | C28H26N2O6S
